US07214673B2
(S)-2-tert-Butyl-10-(3-phenethyl-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene
By using a method similar to the method of Example 460, using 2-tert-butyl4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine (0.934 g, 3.44 mmol) and (S)-2-phenethyl-piperazine (0.655 g, 3.44 mmol) gives 0.561 g of the title compound as a yellow solid: mp 93–96° C.; mass spectrum (ion spray): m/z=445 (M+1); Analysis for C27H32N4S(0.5 H2O): calcd: C, 71.49; H, 7.33; N, 12.35; found: C, 71.27; H, 6.88; N, 12.29.

reactant | 2-tert-butyl4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine | 3.44 mmol, 0.934 g | C(C)(C)(C)C1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N | C15H17N3S
reactant | (S)-2-phenethyl-piperazine | 3.44 mmol, 0.655 g | C(CC1=CC=CC=C1)[C@@H]1NCCNC1 | C12H18N2
product | (S)-2-tert-Butyl-10-(3-phenethyl-piperazin-1-yl)-4H-3-thia-4,9-diaza-benzo[f]azulene | 0.561 g | C(C)(C)(C)C1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CCC3=CC=CC=C3 | C27H32N4S
